US04608374
N-Phenyl-4-(5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine-11-yl)-1-piperidine carboxamide
A solution of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (4.8 g, 0.018 mole) and phenylisocyanate (2.14 ml, 0.02 mole) in 140 ml benzene was heated at 65° C. for 1 hour. The reaction mixture was then cooled. The product was filtered and dried to yield 6.25 g (90%) of a solid, m.p. 184°-192° C. This was recrystallized from tetrahydrofuran/diethyl ether (1:4) to yield 5.9 g (85%) of an analytically pure solid, m.p. 167°-170° C.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.018 mole, 4.8 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | phenylisocyanate | 0.02 mole, 2.14 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | N-Phenyl-4-(5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine-11-yl)-1-piperidine carboxamide | 6.25 g, 90% | C1(=CC=CC=C1)NC(=O)N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C24H25N3O2
